US04045438
p-Azidomethylphenylacetyl chloride
By stirring a mixture of the thus obtained p-azidomethylphenylacetic acid in thionyl chloride at room temperature for 20 hours the corresponding acid chloride is obtained after removal of the excess reagent under high vacuum at room temperature.

reactant | p-azidomethylphenylacetic acid | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)O | C9H9N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | p-Azidomethylphenylacetyl chloride | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)Cl | C9H8ClN3O
